US04482740
2-[1-(allyloxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-hydroxy-2-cyclohexen-1-one:
Into 10 ml of tetrahydrofuran was dissolved 1.0 g of 5-(4-methanesulfonamidophenyl)-3-hydroxy-2-propionyl-2-cyclohexen-1-one and to the solution was added 0.5 g of allyloxyamine. The mixture was kept at room temperature for 15 hours and then it was treated with similar process in Example 1. Thus, 0.8 g of the objective compound was obtained. It was colorless crystals having a melting point of 134°-135° C.

reactant | 5-(4-methanesulfonamidophenyl)-3-hydroxy-2-propionyl-2-cyclohexen-1-one | 1.0 g | CS(=O)(=O)NC1=CC=C(C=C1)C1CC(=C(C(C1)=O)C(CC)=O)O | C16H19NO5S
reactant | allyloxyamine | 0.5 g | C(C=C)ON | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[1-(allyloxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-hydroxy-2-cyclohexen-1-one | 0.8 g | C(C=C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NS(=O)(=O)C)=O | C19H24N2O5S
